US03947470
To a cooled (ice bath) mixture of 7.81 g. (0.040 mol.) of 2-phenylbenzofuran and 7.0 g. (0.041 mol.) of p-anisoyl chloride in 100 ml. of methylene chloride is added dropwise 28.7 g. (0.11 mol.) of stannic chloride. The reaction mixture is allowed to warm to ambient temperature, then stirred for 2 hours. Water is slowly added to the mixture and it is stirred an additional 30 minutes. The layers are separated and the organic phase is washed with water until the washings are neutral, dried (MgSO4) and concentrated to give 3-(4-methoxybenzoyl)-2-phenylbenzofuran.

reactant | 2-phenylbenzofuran | 0.040 mol | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | p-anisoyl chloride | 0.041 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 3-(4-methoxybenzoyl)-2-phenylbenzofuran | COC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C22H16O3
